US07598243B2
To a mixture of tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate (prepared according to Wustrow, D. J., Wise, L. D., Synthesis, (1991), 993-995.; 10.5 g, 31.6 mmol), 3-(ethoxycarbonyl)phenylboronic acid (8.59 g, 44.3 mmol), lithium chloride (3.98 g, 94.8 mmol), and 2 M Na2CO3 solution (44 mL) in DME (107 mL) was added Pd(PPh3)4 (1.82 g, 1.58 mmol), and the resulting mixture was stirred at reflux under a nitrogen atmosphere for 3.5 h. The reaction mixture was cooled to rt, stirred overnight, then partially concentrated to remove most of the DME. To the remaining aqueous mixture was added DCM, 2M Na2CO3 solution, and ˜10mL of 28% NH4OH solution. The layers were separated and the organic layer was washed with brine, dried over anhydrous MgSO4, filtered, and concentrated. Purification by flash chromatography (silica, 10% ethyl acetate/hexanes eluent) afforded tert-butyl 4-[3-(ethoxycarbonyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate. 1HNMR (CDCl3, 500 MHz): δ 8.07 (s, 1H), 7.95 (d, J=7.5 Hz, 1H), 7.58 (d, J=8.0 Hz, 1H), 7.43 (t, J=8.0 Hz, 1H), 6.13 (br s, 1H), 4.41 (q, J=7.0 Hz, 2H), 4.12 (br s, 2H), 3.68 (t, J=5.5 Hz, 2H), 2.58 (br s, 2H), 1.52 (s, 9H), 1.43 (t, J=7.0 Hz, 3H).

reactant | tert-butyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H16F3NO5S
reactant | 3-(ethoxycarbonyl)phenylboronic acid | 44.3 mmol, 8.59 g | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | lithium chloride | 94.8 mmol, 3.98 g | [Cl-].[Li+]
reactant | Na2CO3 | 2 M, 44 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 107 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 1.58 mmol, 1.82 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-[3-(ethoxycarbonyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate | C(C)OC(=O)C=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C19H25NO4
